US07893056B2
(2S)-1-(Phenylmethyl)-2-[1-(1-pyrrolidinyl)cyclopropyl]pyrrolidine (1.083 g, 4.00 mmol) was dissolved in a mixture of MeOH (30 mL) and 1N HCl (8.8 mL), degassed and placed under argon. 10% Pd/C (325 mg) was added, and the contents were thoroughly degassed and placed under a hydrogen balloon for 2 h. The contents were then degassed, and the Pd/C was removed by filtration through a fiberglass filter, washing with MeOH. The filtrate was concentrated in vacuo to provide pure 1-{1-[(2S)-2-pyrrolidinyl]cyclopropyl}pyrrolidine hydrochloride (0.978 g, >99%). LCMS: (M+H)+: 181.2.

reactant | (2S)-1-(Phenylmethyl)-2-[1-(1-pyrrolidinyl)cyclopropyl]pyrrolidine | 4.00 mmol, 1.083 g | C1(=CC=CC=C1)CN1[C@@H](CCC1)C1(CC1)N1CCCC1 | C18H26N2
reactant | HCl | 1N, 8.8 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 1-{1-[(2S)-2-pyrrolidinyl]cyclopropyl}pyrrolidine hydrochloride | 0.978 g, >99% | Cl.N1[C@@H](CCC1)C1(CC1)N1CCCC1 | InChI=1S/C11H20N2.ClH/c1-2-9-13(8-1)11(5-6-11)10-4-3-7-12-10;/h10,12H,1-9H2;1H/t10-;/m0./s1
